US08476457B2
3-isobutyl-7-(5-methyl-pyridin-2-yl)-3H-benzoimidazole-5-carboxylic acid methyl ester 207 mg, 0.64 mmol) was suspended in a mixture of methanol (10 mL) and water (2 mL). To this suspension was added LiOH (46 mg, 1.92 mmol). The mixture was stirred overnight at room temperature, then made acidic by addition of 1N aqueous HCl, and concentrated to dryness under reduced pressure. The residue was re-dissolved in methanol, filtered to remove insolubles, and the filtrate was concentrated under reduced pressure to provide 165 mg (84%) of 3-isobutyl-7-(5-methyl-pyridin-2-yl)-3H-benzoimidazole-5-carboxylic acid.

reactant | 3-isobutyl-7-(5-methyl-pyridin-2-yl)-3H-benzoimidazole-5-carboxylic acid methyl ester | 0.64 mmol, 207 mg | COC(=O)C1=CC2=C(N=CN2CC(C)C)C(=C1)C1=NC=C(C=C1)C | C19H21N3O2
reactant | LiOH | 1.92 mmol, 46 mg | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | 3-isobutyl-7-(5-methyl-pyridin-2-yl)-3H-benzoimidazole-5-carboxylic acid | 165 mg, 84% | C(C(C)C)N1C=NC2=C1C=C(C=C2C2=NC=C(C=C2)C)C(=O)O | C18H19N3O2
